US05321026
Triethylamine (98.4 cc) is added to a solution of 10-[(1RS)-2-hydroxy-1-methylethyl]-2-phenothiazine-carbonitrile (197.7 g) in anhydrous pyridine (750 cc), and hydrogen sulphide is bubbled through for 6 hours 30 minutes at 25° C. while the mixture is kept stirred. The mixture is stirred for 16 hours at 25° C., then purged with a stream of nitrogen for 2 hours and poured into distilled water (3000 cc). The oil which forms is separated after settling has taken place, washed with distilled water (3×1000 cc) and dissolved in ethyl acetate (3000 cc). The solution obtained is washed with distilled water (7×1 liter), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give a yellow crystalline mass (225 g). This product is recrystallized in ethanol (1350 cc) to give 10-[(1RS)-2-hydroxy-1 -methylethyl]-2-phenothiazinecarbothioamide (158.4 g) in the form of yellow crystals, m.p. 152° C.

reactant | Triethylamine | 98.4 cc | C(C)N(CC)CC | C6H15N
reactant | 10-[(1RS)-2-hydroxy-1-methylethyl]-2-phenothiazine-carbonitrile | 197.7 g | OCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C16H14N2OS
reactant | hydrogen sulphide | S | H2S
solvent | pyridine | 750 cc | N1=CC=CC=C1 | C5H5N
product | 10-[(1RS)-2-hydroxy-1 -methylethyl]-2-phenothiazinecarbothioamide | 158.4 g | OCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S | C16H16N2OS2
